** Name: SimpleOpAmp76

.MACRO SimpleOpAmp76 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 outInputVoltageBiasXXnXX1 outInputVoltageBiasXXnXX1 VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=1e-6 W=26e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=429e-6
mDiodeTransistorNmos3 outVoltageBiasXXnXX2 outVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=4e-6 W=8e-6
mDiodeTransistorNmos4 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 sourceNmos sourceNmos nmos4 L=1e-6 W=366e-6
mDiodeTransistorPmos5 ibias ibias outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=2e-6 W=9e-6
mDiodeTransistorPmos6 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=5e-6
mNormalTransistorNmos7 out outVoltageBiasXXnXX2 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 nmos4 L=4e-6 W=532e-6
mNormalTransistorNmos8 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerSourceLoad2 sourceNmos sourceNmos nmos4 L=1e-6 W=366e-6
mNormalTransistorNmos9 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=1e-6 W=99e-6
mNormalTransistorNmos10 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=1e-6 W=99e-6
mNormalTransistorNmos11 FirstStageYsourceTransconductance outInputVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=1e-6 W=429e-6
mNormalTransistorNmos12 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=26e-6
mNormalTransistorPmos13 out ibias FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=2e-6 W=600e-6
mNormalTransistorPmos14 outInputVoltageBiasXXnXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=30e-6
mNormalTransistorPmos15 outVoltageBiasXXnXX2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=30e-6
mNormalTransistorPmos16 FirstStageYinnerSourceLoad2 ibias FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=2e-6 W=600e-6
mNormalTransistorPmos17 FirstStageYsourceGCC1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=585e-6
mNormalTransistorPmos18 FirstStageYsourceGCC2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=585e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp76

** Expected Performance Values: 
** Gain: 78 dB
** Power consumption: 12.6211 mW
** Area: 8888 (mu_m)^2
** Transit frequency: 63.0721 MHz
** Transit frequency with error factor: 63.0718 MHz
** Slew rate: 82.0814 V/mu_s
** Phase margin: 60.1606°
** CMRR: 136 dB
** VoutMax: 3.60001 V
** VoutMin: 0.400001 V
** VcmMax: 4.93001 V
** VcmMin: 1.38001 V


** Expected Currents: 
** NormalTransistorPmos: -60.5259 muA
** NormalTransistorPmos: -61.0889 muA
** NormalTransistorPmos: -697.909 muA
** NormalTransistorPmos: -1191.24 muA
** NormalTransistorPmos: -697.909 muA
** NormalTransistorPmos: -1191.24 muA
** DiodeTransistorNmos: 697.91 muA
** NormalTransistorNmos: 697.91 muA
** NormalTransistorNmos: 697.91 muA
** NormalTransistorNmos: 986.674 muA
** DiodeTransistorNmos: 986.673 muA
** NormalTransistorNmos: 493.338 muA
** NormalTransistorNmos: 493.338 muA
** DiodeTransistorNmos: 60.5251 muA
** NormalTransistorNmos: 60.5241 muA
** DiodeTransistorNmos: 61.0881 muA
** DiodeTransistorPmos: -9.99899 muA
** DiodeTransistorPmos: -9.99999 muA


** Expected Voltages: 
** ibias: 3.04301  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outInputVoltageBiasXXnXX1: 1.14001  V
** outSourceVoltageBiasXXnXX1: 0.570001  V
** outSourceVoltageBiasXXpXX1: 3.96101  V
** outVoltageBiasXXnXX2: 1.00301  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad2: 0.555001  V
** innerTransistorStack2Load2: 0.350001  V
** sourceGCC1: 3.96601  V
** sourceGCC2: 3.96601  V
** sourceTransconductance: 1.85201  V
** inner: 0.569001  V


.END