** Name: SimpleOpAmp79

.MACRO SimpleOpAmp79 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 outVoltageBiasXXnXX1 outVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=17e-6
mDiodeTransistorNmos2 outVoltageBiasXXnXX2 outVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=30e-6
mDiodeTransistorPmos3 ibias ibias outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=2e-6 W=11e-6
mDiodeTransistorPmos4 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=5e-6
mNormalTransistorNmos5 out outVoltageBiasXXnXX1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 nmos4 L=3e-6 W=593e-6
mNormalTransistorNmos6 FirstStageYinnerStageBias outVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=357e-6
mNormalTransistorNmos7 FirstStageYinnerTransistorStack1Load2 FirstStageYout1 sourceNmos sourceNmos nmos4 L=3e-6 W=450e-6
mNormalTransistorNmos8 FirstStageYinnerTransistorStack2Load2 FirstStageYout1 sourceNmos sourceNmos nmos4 L=3e-6 W=450e-6
mNormalTransistorNmos9 FirstStageYout1 outVoltageBiasXXnXX1 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack1Load2 nmos4 L=3e-6 W=593e-6
mNormalTransistorNmos10 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=1e-6 W=120e-6
mNormalTransistorNmos11 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=1e-6 W=120e-6
mNormalTransistorNmos12 FirstStageYsourceTransconductance outVoltageBiasXXnXX1 FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=3e-6 W=424e-6
mNormalTransistorPmos13 out ibias FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=2e-6 W=599e-6
mNormalTransistorPmos14 outVoltageBiasXXnXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=96e-6
mNormalTransistorPmos15 outVoltageBiasXXnXX2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=34e-6
mNormalTransistorPmos16 FirstStageYout1 ibias FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=2e-6 W=599e-6
mNormalTransistorPmos17 FirstStageYsourceGCC1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=543e-6
mNormalTransistorPmos18 FirstStageYsourceGCC2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=543e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp79

** Expected Performance Values: 
** Gain: 79 dB
** Power consumption: 12.4811 mW
** Area: 13068 (mu_m)^2
** Transit frequency: 63.1311 MHz
** Transit frequency with error factor: 63.1308 MHz
** Slew rate: 73.6943 V/mu_s
** Phase margin: 60.1606°
** CMRR: 135 dB
** VoutMax: 3.60001 V
** VoutMin: 0.440001 V
** VcmMax: 4.93001 V
** VcmMin: 1.44001 V


** Expected Currents: 
** NormalTransistorPmos: -195.485 muA
** NormalTransistorPmos: -69.2339 muA
** NormalTransistorPmos: -696.745 muA
** NormalTransistorPmos: -1105.72 muA
** NormalTransistorPmos: -696.745 muA
** NormalTransistorPmos: -1105.72 muA
** NormalTransistorNmos: 696.746 muA
** NormalTransistorNmos: 696.745 muA
** NormalTransistorNmos: 696.746 muA
** NormalTransistorNmos: 696.745 muA
** NormalTransistorNmos: 817.952 muA
** NormalTransistorNmos: 817.951 muA
** NormalTransistorNmos: 408.977 muA
** NormalTransistorNmos: 408.977 muA
** DiodeTransistorNmos: 195.486 muA
** DiodeTransistorNmos: 69.2331 muA
** DiodeTransistorPmos: -9.99899 muA
** DiodeTransistorPmos: -9.99999 muA


** Expected Voltages: 
** ibias: 3.07701  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outSourceVoltageBiasXXpXX1: 3.96101  V
** outVoltageBiasXXnXX1: 1.04301  V
** outVoltageBiasXXnXX2: 0.570001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerStageBias: 0.376001  V
** innerTransistorStack1Load2: 0.433001  V
** innerTransistorStack2Load2: 0.434001  V
** out1: 0.639001  V
** sourceGCC1: 4  V
** sourceGCC2: 4  V
** sourceTransconductance: 1.89401  V


.END